US07517995B2
methyl 4-hydrazino-3-trifluoromethyl-benzoate hydrochloride (VII.3)
6.54 g (30 mmol) methyl 4-amino-3-trifluoromethyl-benzoate are suspended in 50 ml 32% hydrochloric acid and cooled to −20° C. A solution of 2.28 g (33 mmol) sodium nitrite in 20 ml of water is added dropwise. The mixture is stirred for 3 hours at −20° to −10° C., then 27.08 g (120 mmol) tin-(II)-chloride dihydrate in 30 ml hydrochloric acid are added dropwise within 0.25 hours. The reaction mixture is stirred for 2 hours at −10° C., then acidified with cooling. The suspension is suction filtered through kieselguhr and washed with chloroform. The phases of the filtrate are separated, the aqueous phase is extracted with chloroform. The combined organic phases are dried and evaporated to dryness. The residue is precipitated as the hydrochloride, then stirred with diethyl ether.

reactant | methyl 4-amino-3-trifluoromethyl-benzoate | 30 mmol, 6.54 g | NC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H8F3NO2
reactant | sodium nitrite | 33 mmol, 2.28 g | N(=O)[O-].[Na+]
reactant | tin-(II)-chloride dihydrate | 120 mmol, 27.08 g | O.O.[Sn](Cl)Cl
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | methyl 4-hydrazino-3-trifluoromethyl-benzoate hydrochloride | Cl.N(N)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | InChI=1S/C9H9F3N2O2.ClH/c1-16-8(15)5-2-3-7(14-13)6(4-5)9(10,11)12;/h2-4,14H,13H2,1H3;1H
